US06423704B1
Treat a solution of 2,2,2-trifluoroethanol (170 mmol), pyridine (13.5 mL, 170 mmol) nd dichloromethane at 0° C. dropwise over 45 minutes with a solution of triflic anhydride (196 mmol) and dichloromethane (170 mL). Quench the reaction with water, wash the organic hase with water, dry (MgSO4), filter and concentrate by fractional distillation to afford 1,1,1-trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester.

reactant | 2,2,2-trifluoroethanol | 170 mmol | FC(CO)(F)F | C2H3F3O
reactant | pyridine | 170 mmol, 13.5 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 196 mmol | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 170 mL | ClCCl | CH2Cl2
product | 1,1,1-trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
